US04879398
0-Benzyl-3,5-dimethyl-4-iodophenol was prepared as follows: In a 500 ml round-bottom flask were placed 30.0 g (121 mmol) of 3,5-dimethyl-4-iodophenol, 190 ml acetone, 16.9 g (122 mmol) potassium carbonate and 20.7 g (121 mmol) benzyl bromide. The mixture was refluxed for 15 hours, cooled, filtered and the precipitate washed with acetone. The combined filtrate was evaporated under reduced pressure to yield an orange oil which slowly crystallized. This was dissolved in methylene chloride and water and the methylene chloride layer sequentially washed with 5% sodium hydroxide, saturated sodium bisulfite and water. After drying over magnesium sulfate and filtering, the methylene chloride was removed under reduced pressure. The resulting solid was recrystallized from hot methanol, cooled to room temperature and then in ice, collected and washed with cold methanol to yield 27.9 g (68% yield) of white plates, mp 56-57, which were identified as O-Benzy13,5-dimethyl-4-iodophenol. 1H NMR analysis indicated: (δ, CDCl3) 7.68 (m, 5H), 6.62 (s, 2H), 4.88 (s, 2H) and 2.39 (s, 6H). Mass spectrum analysis indicated: (m/e) 338 (M+) and 91.

reactant | 3,5-dimethyl-4-iodophenol | 121 mmol, 30.0 g | CC=1C=C(C=C(C1I)C)O | C8H9IO
reactant | potassium carbonate | 122 mmol, 16.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 121 mmol, 20.7 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetone | 190 ml | CC(=O)C | C3H6O
product | 0-Benzyl-3,5-dimethyl-4-iodophenol | 68% yield | C(C1=CC=CC=C1)C1=C(C=C(C(=C1C)I)C)O | C15H15IO
